data/oMe_Silver.jsonl
{"reaction_id": "NG-007_1-CC(=O)C_2-C1CC2CC3CC1C3C2_3-C1=CC=C(C=C1)C2=CC=CC=C2","name": "Appel reaction","level": "medium","reactants_smiles": ["C(CC(=O)C)(C1CC2CC3CC1C3C2)(C1=CC=C(C=C1)C2=CC=CC=C2)O"],"products_smiles": ["C(CC(=O)C)(C1CC2CC3CC1C3C2)(C1=CC=C(C=C1)C2=CC=CC=C2)Br"],"conditions": "Ph3P, CBr4","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[P+](c1ccccc1)(c1ccccc1)(c1ccccc1)Br.[C-](Br)(Br)Br","rationale": "Triphenylphosphine, a strong nucleophile due to its lone pair on phosphorus, attacks electrophilic CBr4, displacing bromide and forming a bromophosphonium species stabilized by the electron-withdrawing phenyl groups."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]C(CC(=O)C)(C1CC2CC3CC1C3C2)(C1=CC=C(C=C1)C2=CC=CC=C2).BrC(Br)(Br)","rationale": "Bromide, a good base under these conditions, abstracts the acidic proton from the alcohol, driven by the formation of a resonance-stabilized alkoxide and the high acidity of the proton in polarizable medium."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[P+](OC(CC(=O)C)(C1CC2CC3CC1C3C2)(C1=CC=C(C=C1)C2=CC=CC=C2))(c1ccccc1)(c1ccccc1)c1ccccc1.[Br-]","rationale": "The alkoxide, a strong nucleophile, attacks the electrophilic phosphorus center of the bromophosphonium ion, favored by phosphorus's ability to expand its coordination number and the poor leaving group ability of bromide from carbon."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(CC(=O)C)(C1CC2CC3CC1C3C2)(C1=CC=C(C=C1)C2=CC=CC=C2)Br.O=P(c1ccccc1)(c1ccccc1)c1ccccc1","rationale": "Bromide attacks the electrophilic carbon in the oxyphosphonium intermediate via SN2, favored by the excellent leaving group ability of triphenylphosphine oxide and the strong nucleophilicity of bromide."}],"description": "In the Appel reaction, triphenylphosphine reacts with carbon tetrabromide to generate an electrophilic bromophosphonium species and bromide. The alcohol is deprotonated, then the alkoxide attacks the phosphonium center, forming an oxyphosphonium intermediate. Bromide then displaces the oxygen, yielding the alkyl bromide and triphenylphosphine oxide."}
{"reaction_id": "NR-242_1-C_2-CC(C)C_3-CCOC","level": "hard","name": "Stobbe Condensation","reactants_smiles": ["C(=O)(C)(CC(C)C)","C(=O)(OCCOC)CCC(=O)(OCCOC)"],"products_smiles": ["C(=C(C(=O)OCCOC)CC(=O)O)(C)(CC(C)C)"],"conditions": "1. Base (e.g. NaOMe), 2. H3O+","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([O-])(C)(CC(C)C)C(C(=O)OCCOC)CC(=O)OCCOC","step_weight": 0,"rationale": "Base deprotonates the α-position of C–CC(C)C ketone, generating an enolate stabilized by resonance with the carbonyl, which then attacks the electrophilic ester carbonyl of the diester."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C)(CC(C)C)C(C(=O)OCCOC)CC([O-])(OCCOC)O1","step_weight": 0,"rationale": "Intramolecular nucleophilic attack occurs as the alkoxide oxygen attacks another ester carbonyl, favored by proximity and formation of a five-membered cyclic intermediate."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(C)(CC(C)C)C(C(=O)OCCOC)CC(=O)O1","step_weight": 0,"rationale": "The alkoxide eliminates the alkoxy group from the ester, as the leaving group is stabilized by resonance with the adjacent carbonyl, forming a lactone."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C)(CC(C)C)[C-](C(=O)OCCOC)CC(=O)O1","step_weight": 0,"rationale": "Base abstracts an acidic α-proton adjacent to the lactone carbonyl, generating an enolate stabilized by conjugation with the carbonyl group."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(C(=O)OCCOC)CC(=O)[O-])(C)(CC(C)C)","step_weight": 0,"rationale": "The enolate facilitates elimination of the alkoxide from the lactone, opening the ring and forming a conjugated α,β-unsaturated diester anion, driven by extended conjugation."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(C(=O)OCCOC)CC(=O)O)(C)(CC(C)C)","step_weight": 0,"rationale": "Acidic work-up protonates the carboxylate anion, yielding the neutral α,β-unsaturated diacid product."}],"description": "Under basic conditions, the Stobbe condensation proceeds via nucleophilic attack of an enolate on a diester, forming a cyclic intermediate. Sequential eliminations and proton transfers lead to an α,β-unsaturated diacid framework after acid work-up, driven by resonance stabilization and relief of ring strain."}
